US07326710B2
A mixture of piperazine (350 mmol), KOH (100 mmol) and hexadecyl-trimethyl ammonium bromide (CTAB, 1 mmol) in water (18 ml) was heated to get a solution. Thereafter, benzyl chloride (100 mmol) in 140 ml of benzene was added to the solution dropwise at 70° C., and refluxed for 1 h. The organic layer was washed with water and saline, dried (MgSO4), filtered and evaporated, the residue was dissolved by 50 ml of ethanol and adjusted to a PH of 2 by HCl/C2H5OH (5N), the resulting precipitate was recrystallized from ethanol to obtain N-benzyl piperazine dihydrochloride (55-86%).

reactant | piperazine | 350 mmol | N1CCNCC1 | C4H10N2
reactant | KOH | 100 mmol | [OH-].[K+]
reactant | benzyl chloride | 100 mmol | C(C1=CC=CC=C1)Cl | C7H7Cl
catalyst | hexadecyl-trimethyl ammonium bromide | 1 mmol | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | water | 18 ml | O | H2O
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | N-benzyl piperazine dihydrochloride | 55-86% | Cl.Cl.C(C1=CC=CC=C1)N1CCNCC1 | InChI=1S/C11H16N2.2ClH/c1-2-4-11(5-3-1)10-13-8-6-12-7-9-13;;/h1-5,12H,6-10H2;2*1H
